US05859007
B. 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-pyridin-4-yl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide
To a stirring solution of 437.3 mg 2-(2,4-Dioxo-5-pyridin-4-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide (0.95 mmol) in 10 mL DMF at 0° C. is added 2.09 mL (1.04 mmol, 1.1 equiv) of a 0.5M solution of KN(TMS)2. The reaction is allowed to warm to RT, then cooled back down to 0° C., and 325 mg (1.04 mmol, 1.1 equiv) 3-bromomethyl-1-tert-butoxycarbonyl-1H-indazole is then added in one portion. The reaction is allowed to warm to RT, and is stirred an additional 20 min. The reaction is then concentrated, diluted with H2O, and the aqueous layer is extracted with ethyl acetate (3×100 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The residue is purified by silica gel flash column chromatography (gradient 1:1-2:1 ethyl acetate:hexanes) to afford 487 mg of the title compound as a pale yellow foam: 1H NMR (CDCl3, 400 MHz) δ8.58 (s, br, 2H), 8.01 (d, 1H, J=8.4), 7.93 (d, 1H, J=7.8), 7.47 (t, 1H, J=7.5), 7.38-7.26 (m, 4H) 7.26-7.11 (m, 4H), 6.94 (dd, 2H, J=8.7, 11.8), 4.94 (m, 1H), 4.39 (s, br, 1H), 4.32 (dd, 1H, J=4.9, 8.5), 4.16 (d, 1H, J=16.6), 3.83 (s, 3H), 3.80 (m, 1H), 3.52 (dd, 1H, J=5.1, 16.5), 1.62 (s, 9H), 1.03 (d, 6H, J=6.9); low resolution MS (FAB)m/e 689 (MH+).

reactant | 2-(2,4-Dioxo-5-pyridin-4-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 0.95 mmol, 437.3 mg | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=NC=C2)=O | C26H26N4O4
reactant | 3-bromomethyl-1-tert-butoxycarbonyl-1H-indazole | 1.04 mmol, 325 mg, 1.1 equiv | BrCC1=NN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C13H15BrN2O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-pyridin-4-yl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 487 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=NC=C2)=O | C39H40N6O6
